US04537773
Preparation of 4,4,5,5-tetramethyl-2-(2-methylpropyl)-1,3,2-dioxaborolane (2)
A solution of 50.13 g (0.494 mol) of 2-methylpropylboronic acid in 300 mL of ether, prepared by a procedure substantially similar to the foregoing, was contacted with 112.63 g (0.494 mol) of pinacol hexahydrate and stirred for 24 hours. At the end of this period, the resulting reaction mixture was diluted with 500 mL of hexane. A top layer formed which was separated from the rest of the mixture and contacted with 18 mL of water. After stirring for 15 minutes, 9.52 g of a solid separated, which was removed by filtration. The remaining hexane layer was dried over Na2SO4 and residual solvent was removed by evaporation. The remaining material was then distilled using a 6" spinning band distillation column, to obtain 43.98 g (0.239 mol, 48.4%) of an oil, bp: 65°-72°/13 mm, 1H NMR (90 MHz, CDCl3): δ0.65 (d, J=6.6 Hz, 2), 0.93 (d, J=6.6 Hz, 6), 1.25 (s, 12), 1.86 (hep, J=6.6 Hz, 1); Anal. Calcd. for C10H21O2B: C, 65.25; H, 11.50; B, 5.87; Found: C, 65.07, H, 11.52; B, 6.01.

reactant | 2-methylpropylboronic acid | 0.494 mol, 50.13 g | CC(CB(O)O)C | C4H11BO2
reactant | pinacol hexahydrate | 0.494 mol, 112.63 g | O.O.O.O.O.O.OC(C)(C)C(C)(C)O
solvent | ether | 300 mL | CCOCC | C4H10O
solvent | hexane | 500 mL | CCCCCC | C6H14
product | 4,4,5,5-tetramethyl-2-(2-methylpropyl)-1,3,2-dioxaborolane | 0.239 mol, 43.98 g, 48.4% | CC1(OB(OC1(C)C)CC(C)C)C | C10H21BO2
